US08012976B2
Ethyl 3-(4-chlorophenyl)-2-(4-((diethylamino)methyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-((diethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one (500 mg, 1.55 mmol) and 4-chlorobenzaldehyde (218 mg, 1.55 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (107 mg, 4.66 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 3 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product, which was purified by chromatography (silica gel, petroleum ether/ethyl acetate=1:1) to give the crude of the title compound (268 mg, yield 35%). LC-MS (ESI) m/z: 491 (M+1)+.

reactant | (E)-4-(4-((diethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one | 1.55 mmol, 500 mg | C(C)N(CC)CC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C20H22N2O2
reactant | 4-chlorobenzaldehyde | 1.55 mmol, 218 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 4.66 mmol, 5 mL, 107 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 3-(4-chlorophenyl)-2-(4-((diethylamino)methyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 268 mg, yield 35% | ClC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)CN(CC)CC | C29H31ClN2O3
